US08623889B2
Step 2: 5-bromo-3-chloro-2,4-dimethylpyridine 1-oxide
To a solution of 5-bromo-3-chloro-2,4-dimethylpyridine (441 mg; 2.0001 mmol) in dichloromethane (10 mL; 156.0 mmol) was added 3-chloroperoxybenzoic acid (70%, 0.5547 g; 2.250 mmol). The reaction mixture was stirred at room temperature for 3 hours. The reaction mixture was diluted with additional dichloromethane (100 mL), washed with saturated sodium bicarbonate, dried over magnesium sulfate, filtered, and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (40 g silica, solvent gradient: 0-100% ethyl acetate in dichloromethane) to yield 374.1 mg (79%) of the title compound. LCMS (ESI): M+H=236.2; 1H NMR (400 MHz, DMSO) δ 8.65 (s, 1H), 2.47 (s, 3H), 2.43 (s, 3H).

reactant | 5-bromo-3-chloro-2,4-dimethylpyridine | 2.0001 mmol, 441 mg | BrC=1C(=C(C(=NC1)C)Cl)C | C7H7BrClN
reactant | 3-chloroperoxybenzoic acid | 2.250 mmol, 0.5547 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 156.0 mmol, 10 mL | ClCCl | CH2Cl2
product | 5-bromo-3-chloro-2,4-dimethylpyridine 1-oxide | 374.1 mg, 79% | BrC=1C(=C(C(=[N+](C1)[O-])C)Cl)C | C7H7BrClNO
